US04766131
Using the procedure described in Example 12, 15.0 g of 1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline was reacted with 4-acetoxyphenylacetyl chloride to give 13.0 g of N-(4-acetoxyphenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline.

reactant | 1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 15.0 g | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
reactant | 4-acetoxyphenylacetyl chloride | C(C)(=O)OC1=CC=C(C=C1)CC(=O)Cl | C10H9ClO3
product | N-(4-acetoxyphenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 13.0 g | C(C)(=O)OC1=CC=C(C=C1)CC(=O)N1CC2=CC(=C(C=C2CC1)OC)OC | C21H23NO5
